US07504412B2
Operations similar to Example 1 were conducted using 2,2,2-trifluoro-N-methyl-N-(3-methyl-6-nitroimidazo[1,2-a]pyridin-2-yl)acetamide (580 mg) and 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid (510 mg), to provide N-{3-methyl-2-[methyl(2,2,2-trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}-4′(trifluoromethyl)-[1,1′-biphenyl]-4-carboxamide (610 mg) as white solid.

reactant | 2,2,2-trifluoro-N-methyl-N-(3-methyl-6-nitroimidazo[1,2-a]pyridin-2-yl)acetamide | 580 mg | FC(C(=O)N(C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C)C)(F)F | C11H9F3N4O3
reactant | 4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | 510 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
product | N-{3-methyl-2-[methyl(2,2,2-trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}-4′(trifluoromethyl)-[1,1′-biphenyl]-4-carboxamide | 610 mg | CC1=C(N=C2N1C=C(C=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)N(C(C(F)(F)F)=O)C | C25H18F6N4O2
